US07777038B2
5-Cyano-8-methyl-3,4-dihydro-1H-quinolin-2-one (2.0 g) and Raney nickel (10 g) were suspended in formic acid (40 ml), and the suspension was heated under reflux for 6 hours. The reaction mixture was filtered to remove the insoluble matter, and the filtrate was concentrated. Ethyl acetate and water were added to the residue, and after stirring, the mixture was filtered through Celite. The filtrate was separated into layers, and the organic layer was washed with water and dried over anhydrous sodium sulfate. After concentration under reduced pressure, the residue was recrystallized from an ethyl acetate-diethyl ether mixed solvent to thereby obtain 1.29 g (yield: 62%) of 8-methyl-2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde as a light brown powder.

reactant | 5-Cyano-8-methyl-3,4-dihydro-1H-quinolin-2-one | 2.0 g | C(#N)C1=C2CCC(NC2=C(C=C1)C)=O | C11H10N2O
reactant | formic acid | 40 ml | C(=O)O | CH2O2
catalyst | Raney nickel | 10 g | [Ni] | Ni
product | 8-methyl-2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde | 1.29 g, yield: 62% | CC1=CC=C(C=2CCC(NC12)=O)C=O | C11H11NO2
